US06960591B2
A catalytic amount of concentrated sulfuric acid was added dropwise to an acetic anhydride (55 ml) suspension of 5-(4′-methoxyphenyl)-2-nitroaniline (2.02 g), followed by 3 hours and 20 minutes stirring at 40° C. After cooling to room temperature, diethyl ether (200 ml) was added thereto and the precipitated powder was collected by filtration to obtain N-(4′-methoxy-4-nitrobiphenyl-3-yl)acetamide (596 mg).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 55 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-(4′-methoxyphenyl)-2-nitroaniline | 2.02 g | COC1=CC=C(C=C1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C13H12N2O3
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | N-(4′-methoxy-4-nitrobiphenyl-3-yl)acetamide | 596 mg | COC1=CC=C(C=C1)C1=CC(=C(C=C1)[N+](=O)[O-])NC(C)=O | C15H14N2O4
